Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ here with effortful speech noted at 8:40AM with last known 
normal 1AM. 
 
Major Surgical or Invasive Procedure:
TEE

 
History of Present Illness:
___ with hx of remote smoking, mitral valve prolapse dx in youth
which "resolved", family history of young stroke, here with
effortful speech noted at 8:40AM with last known normal 1AM. 

Pt has been in her normal state of health recently - no recent
illness, fever, chills, nausea/vomiting. History of obtained in
combination from patient and patient's sister who is very close
to her. 

She was last normal by their estimation around 1AM when she went
to bed, she had spoken to her sister before going to bed and her
speech was normal. This morning, she felt at her baseline and 
did
not speak until she was driving into work when she made a call 
to
work sometime after 8AM during which she felt her speech was
effortful and while she knew what she wanted to say, she had
trouble getting the words out. However, the phone call was short
and she did not think much of it until she arrived to work at
8:40AM and when trying to talk to her coworkers, she realized
that she could not make a complete sentence due to her effortful
speech. She also felt that her speech was also grammatically
incorrect which is very atypical for her. While she has a 
___
accent at baseline she is very well spoken in ___ per her
sister who is emphatic that her speech today is not normal. She
actually is a licensed interpreter for ___ and ASL. 

She texted her sister and another friend saying that there was
something wrong with her speech and she was going to the ED for
possible TIA. These texts are by in large normal with mild
grammatical errors that could be within the realm of normal
because she uses swipe to text. 

At work, she also developed a mild nonthrobbing headache on the
left side. 911 was called and she was brought to the ED. Code
stroke was called, NIHSS reportedly 0. On initial neurology 
evaluation, her most
obvious speech difficulty was with repetition of longer phrases.
While effortful, speech was technically fluent. 

Denies headache, lightheadedness, confusion, difficulty 
comprehending speech, loss of vision, blurred vision, diplopia, 
vertigo, hearing difficulty, dysarthria, dysphagia, focal muscle 
weakness, numbness, paresthesia, loss of sensation, bowel or 
bladder incontinence or retention, difficulty with gait, fever, 
palpitations, dyspnea, cough, nausea, vomiting, diarrhea, 
abdominal pain, myalgia, arthralgia, or rash. 

 
Past Medical History:
-Occasional headaches w/out photophobia, phonophobia, 
nausea/vomiting that typically do not require intervention

-Mitral valve prolapse dx although she has had echoes that were 
reportedly normal in the past. Records not available.

-NKDA

-No home medications prior to admission

- Denies h/o surgeries
 
Social History:
Marital status: divorced

Children: 2 children ( ages ___ and ___)

Lives with: children

Work: ___
Tobacco use: Former smoker (not heavy, quit ___  years ago)

Alcohol use: past and present social use

Recreational drugs (marijuana, heroin, crack, pills, or other) : 
denies

Depression: Based on PHQ-2 evaluation, patient does not report 
sxs of depression

Exercise: gym ___ / week

Diet: varied

Seat belt use : always
 
Family History:
Mother is diseased and had a h/o lung cancer. Father passed away 
at age ___ and had heart failure. Maternal grandfather had a h/o 
stroke in his ___. Maternal grandmother has h/o Lymphoma. 
Patient has daughter with juvenile myoclonic epilepsy.
 
Physical Exam:
ON ADMISSION:

Vitals:  98.3F, HR 93, 130/82, RR 16, 100% on RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: regular rate, no murmurs.
Pulmonary: No increased WOB, lungs clear. 
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to hospital, situation.
Able to relate history with some difficulty regarding speech.
Attentive, to exam. Speech is effortful, with word finding
difficulty (will sometimes be able to text the word even though
she can't say it - example she texted "Adapt" instead of saying
it), grammatical errors - will skip prepositions, mix up the
order of words, add "ly" inappropriately. Impaired repetition -
initially, could only repeat single words and two word phrases.
Unable to repeat "The cat hid under the couch"/"I only know that
___ is the one to help today". She would say "Cat.. couch"
___ then shake her head no after some stuttering. An 
example
of a grammatical error - when trying to explain how she is
normally very articulate she says "I.. speak.. very..
grammatically.."  Intact comprehension with two step commands 
but
makes one error with self correction on "pointing to ceiling
after pointing to ground". Naming intact after some delay. No
neologisms. The only paraphasic errors are when she adds "ly" to
a word or pronounces it incorrectly. 
No apraxia but had some trouble following more complex commands
on motor exam - could follow more detailed instructions in
___. No evidence of hemineglect. No left-right confusion. 

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       0
 R  2+    2+     2+      1+       0  

Plantar response mute bilaterally. No ankle clonus.

- Sensory: No deficits to light touch or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose and heel knee
shin testing bilaterally. Good speed and intact cadence with
rapid alternating movements.

- Gait: Deferred.

AT DISCHARGE:

Neurologic Exam:

Patient feels better this morning, reports her speech much 
improved although not at baseline. Specifically she reports she 
that she will occasionally repeat a word within a sentences 
(example she gave: "There is a beautiful landscape, landscape 
outside."Alert and oriented to time, place and person. Able to 
relate history. Speech is intact. No word finding difficulty 
noted. Intact repetition. Grammar seemed improved from 
yesterday.

Extra ocular movements are full range. Pupils equal round and 
reactive. Visual Fields are full. There is no nystagmus.  EOMI. 
No facial weakness. V1-V3 without deficits to light touch 
bilaterally. Hearing intact to finger rub bilaterally. Palate 
elevation symmetric, tongue and uvula midline. Motor strength is 
___ throughout bilaterally. No deficits to light touch in upper 
or lower extremities bilaterally. 

 
Pertinent Results:
GENERAL LABS:

___ 09:40AM BLOOD WBC-5.9 RBC-4.81 Hgb-14.5 Hct-43.3 MCV-90 
MCH-30.1 MCHC-33.5 RDW-12.3 RDWSD-40.6 Plt ___
___ 09:40AM BLOOD Glucose-94 UreaN-12 Creat-0.8 Na-143 
K-4.1 Cl-103 HCO3-26 AnGap-14
___ 05:05AM BLOOD ALT-24 AST-20 LD(LDH)-183 AlkPhos-32* 
TotBili-0.5
___ 09:40AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.2

STROKE LABS:

___ 05:05AM BLOOD cTropnT-<0.01
___ 05:05AM BLOOD Triglyc-146 HDL-49 CHOL/HD-3.8 
LDLcalc-106
___ 05:05AM BLOOD TSH-3.3
___ 05:05AM BLOOD %HbA1c-5.3 eAG-105

COAGULATION LABS:

___ 09:55AM BLOOD ___ PTT-26.4 ___
___ 09:40AM BLOOD Plt ___
___ 09:55AM BLOOD FacVIII-156
___ 09:55AM BLOOD AT-100 ProtCFn-141 ProtSFn-98
___ 09:55AM BLOOD Lupus-NEG
___ 09:55AM BLOOD Cryoglb-NO CRYOGLO
___ 05:05AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 09:55AM BLOOD b2micro-1.9
___ 05:05AM BLOOD HCV Ab-NEG

IMMUNE LABS:

___ 09:55AM BLOOD Lupus-NEG
___ 09:55AM BLOOD ANCA-NEGATIVE B
___ 09:55AM BLOOD RheuFac-<10 ___ CRP-0.9
IMAGING:

CT Head w/out contrast (___): 
No evidence of acute intracranial hemorrhage

CTA head and neck (___): 
Unremarkable

MRI Head w/out contrast (___)
Acute left MCA territory infarct with no evidence of hemorrhage

TRANS-THORACIC ECHO ___
Normal biventricular cavity sizes with preserved global and 
regional biventricular systolic function. No atrial septal 
defect or patent foramen ovale detected.There is mild bileaflet 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
Scant late saline contrast is seen in left heart suggesting 
intrapulmonary shunting.

TRANS-ESOPHAGEAL ECHO ___
Saline contrast crossed < 4 beats after opacificiation of the RV 
into the left atrium suggestive of PFO. The left atrium and 
right atrium are normal in cavity size. Moreover, there was 
crossing of bubbles late after opacification suggestive of 
pulmonary arteriovenous fistulas. 

    
 
Brief Hospital Course:
___ is a ___ left-handed female with a 
history of remote smoking and mitral valve prolapse as well as a 
family history of young stroke who was admitted with symptoms of 
effortful speech, word-finding difficulty, and grammatical 
errors. 
Her exam on admission was significant for trouble with 
repetition, effortful/halting speech, occasional 
mispronunciation, 
and grammatical errors with fluent speech and spared 
comprehension. She was found to have an acute infarct involving 
the left temporal and parietal lobes. 

The hypercoagulability panel to date has been within normal 
limits. The CT of the torso did not demonstrate malignancy. 
Whereas her TTE was normal, her TEE revealed a PFO. Therefore, 
an MRI of the pelvis and an ultrasound of the lower extremities 
were done. These exams ruled out the presence of clots. In terms 
of the rest of the stroke work-up, her diabetes and thyroid 
screening were within normal limits, and her LDL was mildly 
elevated. She was treated with ceftriaxone for possible UTI, but 
this was discontinued after her culture showed no growth. She 
was evaluated by OT, and they did not identify any outpatient 
needs. 

Chronic issues pertinent to admission

Transitional Issues
- Start taking atorvastatin 40mg by mouth at bed time
- Follow-up on incidentally noted 5mm hypodensities in 
pancreatic head (likely represent side branch IPMNs) found on CT 
abdomen with MRCP in ___ year
- Follow up in incidentally noted pulmonary arteriovenous 
fistulas in TEE. 
- Discuss incidentally noted 4mm left lung nodules and pulmonary 
arteriovenous fistulas with PCP for monitoring
- Discuss mild mitral valve prolapse with mild mitral 
regurgitation identified on TTE with PCP for monitoring
- Outpatient speech therapy 
- Outpatient ___ of Hearts
- Will need to be ordered for Factor V Leiden, homocysteine, and 
prothrombin as outpatient
- Enrolled in Point Trial (placed on aspirin 162mg as well as 
study drug--Plavix versus placebo)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 162 mg PO DAILY 
RX *aspirin 81 mg 2 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*3 
3.  Clopidogrel 75 mg/placebo study med Study Med 1 tab po DAILY 
 
4.Outpatient Speech/Swallowing Therapy
Speech therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stroke
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure to take care of you during your stay at ___ 
___.

You were admitted with difficulty speaking, and you were found 
to have a stroke. Your work-up to determine the cause of your 
stroke has been unrevealing so far: your blood vessel imaging, 
trans-thoracic echo, trans-esophageal echo, CT torso, telemetry, 
and blood work to look for conditions that predispose for stroke 
has been normal so far. We did identify that you have high 
cholesterol, which puts you at risk for stroke. You will be 
ordered for ___ of hearts monitor as an outpatient to 
evaluate for abnormal electrical activity of the heart that can 
predispose you for stroke. At your stroke clinic visit, some 
additional blood work will also be ordered to evaluate for 
predisposing conditions. 

We have given you an outpatient speech therapy prescription. You 
are cleared for activity and work as tolerated. We recommend a 
heart healthy diet.

 
It was a pleasure taking part of your care,

Your ___ Team

 

 
Followup Instructions:
___